US04261997
From 0.6 g of 7-chloro-4,9-dihydro-4-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid, ethyl ester, 22 ml of 0.1 N aqueous sodium hydroxide and 66 ml of methanol, following the procedure of Example 14, there is obtained 7-chloro-4,9-dihydro-4-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid; mp 280° C., after crystallization from dimethylformamide/methanol.

reactant | 7-chloro-4,9-dihydro-4-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid, ethyl ester | 0.6 g | ClC1=CC=2C(N3C(N(C2C=C1)C)=CC(=N3)C(=O)OCC)=O | C14H12ClN3O3
reactant | sodium hydroxide | 0.1 N, 22 ml | [OH-].[Na+]
solvent | methanol | 66 ml | CO | CH4O
product | 7-chloro-4,9-dihydro-4-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid | ClC1=CC=2C(N3C(N(C2C=C1)C)=CC(=N3)C(=O)O)=O | C12H8ClN3O3
